US07399775B2
6-[2-(t-Butyldiphenylsilyloxy)methylphenyl]-6-[(4-chlorophenyl)sulfonyl]-1-hexanol
In methanol (30 ml) was dissolved t-butyl [[6-[2-[(t-butyldiphenylsilyloxy)methyl]phenyl]-6-[(4-chlorophenyl)sulfonyl]hexyl]oxy]dimethylsilane (830 mg, 1.13 mmol), followed by the addition of p-toluenesulfonic acid monohydrate (25 mg, 0.13 mmol). The resulting mixture was stirred at room temperature for 2 hours. Triethylamine (0.080 ml, 0.57 mmol) was added and then, the residue obtained by concentrating the resulting mixture under reduced pressure was subjected to flash silica gel chromatography. The fraction obtained from the dichloromethane:methanol=100:1 eluate was concentrated under reduced pressure, whereby the title compound (580 mg, 0.934 mmol, 83%) was obtained as a colorless oil.

reactant | t-butyl [[6-[2-[(t-butyldiphenylsilyloxy)methyl]phenyl]-6-[(4-chlorophenyl)sulfonyl]hexyl]oxy]dimethylsilane | 1.13 mmol, 830 mg | C(C)(C)(C)[Si](C)(C)OCCCCCC(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C41H55ClO4SSi2
reactant | p-toluenesulfonic acid monohydrate | 0.13 mmol, 25 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Triethylamine | 0.57 mmol, 0.080 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 ml | CO | CH4O
product | 6-[2-(t-Butyldiphenylsilyloxy)methylphenyl]-6-[(4-chlorophenyl)sulfonyl]-1-hexanol | 0.934 mmol, 580 mg, 83% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=CC=C1)C(CCCCCO)S(=O)(=O)C1=CC=C(C=C1)Cl | C35H41ClO4SSi
